US04022877
Kidney Visualization With Technetium-Orgotein
99MTc-labeled orgotein obtained by adding to 1-10 mg. dry samples of orgotein, 2 tin shot pellets (shiny), 1.0 ml. 0.02N HCl and 0.5 ml. pertechnetate (5-20 mCi) followed by 10 minutes incubation at room temperature and thereafter, when neutralization prior to injection was desired, followed by 1 ml. of 0.02N Na3CO3, was employed in the experiments.

reactant | orgotein | [Cu+2].[Cu+2].[Cu+2].[Cu+2].[Zn+2].[Zn+2].[Zn+2].[Zn+2]
reactant | tin | [Sn] | Sn
reactant | HCl | 0.02N | Cl | ClH
reactant | pertechnetate | [Tc](=O)(=O)(=O)[O-]
product | Technetium Orgotein | [Tc].[Cu+2].[Cu+2].[Cu+2].[Cu+2].[Zn+2].[Zn+2].[Zn+2].[Zn+2] | InChI=1S/4Cu.Tc.4Zn/q4*+2;;4*+2
